US05153236
To 500 ml of water/methanol (1/4 weight ratio), 30 g of N-phenyl-N-methylglycine methyl ester and 12.3 g (1.1 equivalent weight) of NaOH were added and refluxed for 2 hours. The methanol was evaporated from the reaction mixture under reduced pressure. Then, water was added thereto and unreacted starting materials were extracted with methylene chloride. Subsequently, 10% hydrochloric acid was added to the aqueous layer to adjust the pH at about 5, followed by extraction with ether. The ether layer wad dried, and solvent distilled to yield N-methyl-N-phenylglycine in 27.1 g.

reactant | N-phenyl-N-methylglycine methyl ester | 30 g | COC(CN(C)C1=CC=CC=C1)=O | C10H13NO2
reactant | NaOH | 12.3 g, 1.1 equivalent | [OH-].[Na+]
solvent | water methanol | 500 ml | O.CO
product | N-methyl-N-phenylglycine | CN(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
